US06635633B2
F. 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid methyl ester
To a stirred solution of 410 mg (1.25 mmol) of 6-fluoro-3-piperidin-4-yl-benzo[b]thiophene-2-carboxylic acid methyl ester hydrochloride salt in 10 mL of dichloromethane and 0.18 mL (1.25 mmol) of triethylamine was added 500 mg of 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde (1.25 mmol) and 2 g of NaHCO3. The mixture was stirred for 4 h before the portion wise addition of 792 mg (3.73 mmol) sodium triacetoxyborohydride. The reaction was stirred at room temperature for 3 h before quenching with 20 mL of water. The aqueous phase was extracted with CH2Cl2 (3×50 mL). The combined organic layers were then washed with brine, dried over Na2SO4, and concentrated. The crude product was purified by column chromatography (silica, 0-5% MeOH/CH2Cl2) to afford 650 mg (77%) of a white solid. MS (electrospray): exact mass calculated for C32H34F4N4O4S2: 678.20; m/z found, 679.2 [M+H]+. 1H NMR (CDCl3, 400 MHz): 7.74 and 7.66 (A and B of AB quartet, J=8.22 Hz, 4H), 7.50 (dd, J=8.41, 2.54 Hz 1H), 7.14 (t, J=8.22 Hz, 1H), 4.56 (s, 2H), 4.17 (m, 3H), 3.91 (s, 3H), 3.70 (t, J=5.67 Hz, 2H), 3.03 (br m, 2H), 3.00 (t, J=5.67 Hz, 2H), 2.90 (s, 3H), 2.40 (br m, 4H), 2.13 (br m, 4H), 1.76 (br d, J=11.15 Hz, 4H).

reactant | 6-fluoro-3-piperidin-4-yl-benzo[b]thiophene-2-carboxylic acid methyl ester hydrochloride salt | 1.25 mmol, 410 mg | Cl.COC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCNCC2
reactant | triethylamine | 1.25 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde | 1.25 mmol, 500 mg | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCC=O | C17H18F3N3O3S
reactant | NaHCO3 | 2 g | C(=O)(O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 3.73 mmol, 792 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid methyl ester | 650 mg, 77% | COC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCN(CC2)CCCN2N=C(C=1CN(CCC12)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C32H34F4N4O4S2
